US07279575B2
To a solution of sodium ethoxide, obtained from sodium metal (0.122 g, 5.55 mmol) in anhydrous ethanol (7 mL), a solution of ethyl 3-[(3-ethoxy-3-oxopropanoyl)amino]-3-methylbutanoate (1.2 g, 4.62 mmol) in dry toluene (7 mL) was added dropwise at room temperature, under stirring. The reaction mixture was heated at 80° C. for 2 hours then it was concentrated to reduced volume and the residue was dissolved in toluene (15 mL). The organic phase was extracted with water (40 mL), the aqueous phase was acidified to pH 2-3 with 1 N HCl and extracted with ethyl acetate (4×50 mL). The organic phase was washed with brine, dried over anhydrous sodium sulphate and concentrated to give ethyl 6,6-dimethyl-2,4-dioxopiperidine-3-carboxylate as a yellow solid (0.7 g, Y=71%) which was used for the next step without further purification.

reactant | ethyl 3-[(3-ethoxy-3-oxopropanoyl)amino]-3-methylbutanoate | 4.62 mmol, 1.2 g | C(C)OC(CC(=O)NC(CC(=O)OCC)(C)C)=O | C12H21NO5
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 6,6-dimethyl-2,4-dioxopiperidine-3-carboxylate | CC1(CC(C(C(N1)=O)C(=O)OCC)=O)C | C10H15NO4
